US06313137B1
Synthesis of ethyl 2,3-dimethyl-8-(2-ethyl-6-methylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxylate
Ethyl 8-amino-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxylate (0.7 g, 3.0 mmol), 2-ethyl-6-methylbenzylchloride (0.5 g, 3.0 mmol), sodium carbonate (0.64 g, 6.0 mmol) and a cat. amount of potassium iodide were added to acetone (50 ml) and were refluxed for 20 h. Following filtration, the acetone was evaporated under reduced pressure to give an oil. The oily product was purified by column chromatography on silica gel using diethyl ether:petroleum ether (1:1) as eluent to give 0.12 g (9%) of the title product.

reactant | Ethyl 8-amino-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxylate | 3.0 mmol, 0.7 g | NC=1C=2N(C=C(C1)C(=O)OCC)C(=C(N2)C)C | C12H15N3O2
reactant | 2-ethyl-6-methylbenzylchloride | 3.0 mmol, 0.5 g | C(C)C1=C(CCl)C(=CC=C1)C | C10H13Cl
reactant | sodium carbonate | 6.0 mmol, 0.64 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | ethyl 2,3-dimethyl-8-(2-ethyl-6-methylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxylate | 0.12 g, 9% | CC=1N=C2N(C=C(C=C2NCC2=C(C=CC=C2C)CC)C(=O)OCC)C1C | C22H27N3O2
